US05643932
In 10 ml of ethanol was dissolved 350 mg of 2-(3,4-diethoxyphenyl)-4-[3-methoxymethoxycarbonyl-4-methoxymethoxy-5-(2-ethoxycarbonylvinyl)phenyl]thiazole. Thereto was added 0.2 ml of 10% hydrochloric acid. The mixture was stirred at 60° C. for 1 hour with heating. Thereto was added 1 ml of 10% sodium hydroxide. The mixture was refluxed for 4 hours with heating. The solvent was removed from the reaction mixture by distillation. The residue was mixed with 15 ml of water. The mixture was made weakly acidic with 10% hydrochloric acid and extracted with 40 ml of hot ethyl acetate. The organic layer was washed with 15 ml of a saturated aqueous sodium chloride solution, dried and subject to distillation to remove the solvent. The residue was recrystallized from ethyl acetate to obtain 170 mg of 2-(3,4-diethoxyphenyl)-4-[3-carboxy-4-hydroxy-5-(2-carboxyvinyl)phenyl]thiazole.

reactant | 2-(3,4-diethoxyphenyl)-4-[3-methoxymethoxycarbonyl-4-methoxymethoxy-5-(2-ethoxycarbonylvinyl)phenyl]thiazole | 350 mg | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=CC(=C(C(=C1)C=CC(=O)OCC)OCOC)C(=O)OCOC | C29H33NO9S
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(3,4-diethoxyphenyl)-4-[3-carboxy-4-hydroxy-5-(2-carboxyvinyl)phenyl]thiazole | 170 mg | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=CC(=C(C(=C1)C=CC(=O)O)O)C(=O)O | C23H21NO7S
